US07268145B2
Sodium hydride (1.1 mg, 0.306 mmol) and 2 ml of tetrahydrofuran was added to a previously dried reaction vessel. To the mixture were added 2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid methyl ester (50 mg, 0.153 mmol) and 1-chloromethylnaphthalene (69 μl, 0.459 mmol), which was then stirred at 60° C. for 45 minutes. Water was added thereto, followed by extraction with ethyl acetate. After drying the ethyl acetate phase with anhydrous sodium sulfate, it was concentrated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 2-((5,6-dimethyl-1-(1-naphthylmethyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester (yield 32%).

reactant | Sodium hydride | 0.306 mmol, 1.1 mg | [H-].[Na+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | 2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid methyl ester | 0.153 mmol, 50 mg | COC(C1=C(C=CC=C1)CSC=1NC2=C(N1)C=C(C(=C2)C)C)=O | C18H18N2O2S
reactant | 1-chloromethylnaphthalene | 0.459 mmol, 69 μl | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
solvent | Water | O | H2O
product | 2-((5,6-dimethyl-1-(1-naphthylmethyl)benzimidazole-2-ylthio)methyl)benzoic acid methyl ester | yield 32% | COC(C1=C(C=CC=C1)CSC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C(=C2)C)C)=O | C29H26N2O2S
